US08466282B2
Ethyl 3-[(1E)-4-methoxybut-1-en-1-yl]imidazo[1,2-a]pyridine-2-carboxylate
To a suspension of (3-methoxypropyl) (triphenyl)phosphonium bromide (3.56 g) in THF (50 ml) was added potassium tert-butoxide (0.38 g) at −78° C., and the mixture was stirred at the same temperature for 30 min. Ethyl 3-formylimidazo[1,2-a]pyridine-2-carboxylate (1.7 g) was added to the reaction mixture, and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (256 mg).

reactant | (3-methoxypropyl) (triphenyl)phosphonium bromide | 3.56 g | [Br-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 0.38 g | CC(C)([O-])C.[K+]
reactant | Ethyl 3-formylimidazo[1,2-a]pyridine-2-carboxylate | 1.7 g | C(=O)C1=C(N=C2N1C=CC=C2)C(=O)OCC | C11H10N2O3
reactant | Water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 3-[(1E)-4-methoxybut-1-en-1-yl]imidazo[1,2-a]pyridine-2-carboxylate | 256 mg | COCC/C=C/C1=C(N=C2N1C=CC=C2)C(=O)OCC | C15H18N2O3
